US05489570
Dimethyl 2,4-dichloroisophthaloate (11.95 g) and methyl thioglycolate (7.23 g) was dissolved in N,N-dimethylformamide, and lithium hydroxide monohydrate (3.81 g) added. The mixture was stirred at ambient temperature for 2 days, diluted with water and brought to pH 1 with hydrochloric acid. The solid was filtered, washed with boiling cyclohexane and dried by azeotropic removal of toluene to give dimethyl 4-chloro-3-hydroxybenzo[b]thiophene-2,5-dicarboxylate (13.44 g) as a beige solid, m.p. 127°-131° C.

reactant | Dimethyl 2,4-dichloroisophthaloate | 11.95 g | ClC1=C(C(=O)OC)C=CC(=C1C(=O)OC)Cl | C10H8Cl2O4
reactant | methyl thioglycolate | 7.23 g | C(CS)(=O)OC | C3H6O2S
reactant | lithium hydroxide monohydrate | 3.81 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | dimethyl 4-chloro-3-hydroxybenzo[b]thiophene-2,5-dicarboxylate | 13.44 g | ClC1=C(C=CC=2SC(=C(C21)O)C(=O)OC)C(=O)OC | C12H9ClO5S
